### PR TITLE
[Merged by Bors] - feat(Algebra): Baer criterion for injective dimension

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR, we added the cateory version of Baer criterion stating that `M` is injective iff `Ext^1(R/I, M)` vanish for all ideal `I`. By dimension shifting, we also have `M` has injective dimension not exceeding `n` iff `Ext^{n + 1}(R/I, M)` vanish for all ideal `I`.

---

- [x] depends on: #36980
- [x] depends on: #39305

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean [hunk 1]
```diff
@@ -0,0 +1,134 @@
...
+  small_of_surjective Ideal.Quotient.mk_surjective
+
+section
+
+universe w
+
+variable [UnivLE.{v, w}]
+
+private instance hasExt_of_small [Small.{v} R] : CategoryTheory.HasExt.{w} (ModuleCat.{v} R) :=
+  CategoryTheory.hasExt_of_enoughProjectives.{w} (ModuleCat.{v} R)
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Baer.lean]: It would be reasonable to make this PR depend on #32312, and use only `HasExt.{v}`.

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean [hunk 2]
```diff
@@ -0,0 +1,134 @@
...
+
+open Limits in
+lemma injective_of_subsingleton_ext_quotient_one [Small.{v} R] (M : ModuleCat.{v} R)
+    (h : ∀ (I : Ideal R), Subsingleton (Ext.{w} (ModuleCat.of R (Shrink.{v, u} (R ⧸ I))) M 1)) :
+    Injective M := by
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Baer.lean:95]: It would be nice to make a separate `iff` lemma giving the concrete condition under which `Subsingleton (Ext (ModuleCat.of R (Shrink.{v, u} (R ⧸ I))) M 1))` hold for a single ideal `I`.
Also, with my suggestion to only use the universe `v` for `Ext`, it becomes possible to state that there is an exact sequence `M -> Hom(I, M) -> Ext^1(R/I, M) -> 0` in `ModuleCat.{v} R`.

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean [hunk 3]
```diff
@@ -0,0 +1,132 @@
...
+
+@[expose] public section
+
+universe u u' v v'
+
+variable {R : Type u} [CommRing R]
+
+open CategoryTheory Abelian
+
+section
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Baer.lean]:
```suggestion
namespace ModuleCat
```

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean [hunk 4]
```diff
@@ -0,0 +1,132 @@
...
+    have := (Ext.homEquiv₀.subsingleton_congr.mp (h ⊥))
+    rw [ModuleCat.homAddEquiv.subsingleton_congr,
+      ((e₀.congrLeft M R).trans (LinearMap.ringLmapEquivSelf R R M)).subsingleton_congr,
+      ← ModuleCat.isZero_iff_subsingleton] at this
+    intro N
+    rw [Ext.homEquiv₀.subsingleton_congr]
+    exact subsingleton_of_forall_eq 0 (fun y ↦ Limits.IsZero.eq_zero_of_tgt this y)
+  | n + 1 => exact ext_subsingleton_of_quotients' M n  h
+
+end
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Baer.lean]:
```suggestion
end ModuleCat
```

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean [hunk 5]
```diff
@@ -0,0 +1,132 @@
...
+  let S : ShortComplex (ModuleCat.{v} R) := {
+    f := ModuleCat.ofHom Sf
+    g := ModuleCat.ofHom Sg
+    zero := by
+      ext x
+      simp [exac.apply_apply_eq_zero] }
+  have S_exact : S.ShortExact := {
+    exact := (ShortComplex.ShortExact.moduleCat_exact_iff_function_exact _).mpr exac
+    mono_f := (ModuleCat.mono_iff_injective _).mpr inj
+    epi_g := (ModuleCat.epi_iff_surjective _).mpr surj }
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Baer.lean]: What you're doing here is essentially `ModuleCat.shortComplexKer`, if you identify `I` with `(Ideal.Quotient.mkₐ R I).toLinearMap.ker`. You may need to modify the `shortComplexKer` API somewhat to make it work, but this does not belong inside this proof.

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean [hunk 6]
```diff
@@ -0,0 +1,132 @@
...
+    rcases h (Ext.mk₀ (ModuleCat.ofHom f)) with ⟨f', hf'⟩
+    rw [Ext.bilinearComp_apply_apply, ← Ext.mk₀_addEquiv₀_apply f', Ext.mk₀_comp_mk₀] at hf'
+    have eqcomp := congrArg ModuleCat.Hom.hom ((Ext.mk₀_bijective _ _).1 hf')
+    simp only [← LinearMap.comp_assoc, ModuleCat.hom_comp, ModuleCat.hom_ofHom,
+      LinearEquiv.eq_comp_toLinearMap_iff, S, Sf, f] at eqcomp
+    use (ModuleCat.Hom.hom (Ext.addEquiv₀ f')).comp (Shrink.linearEquiv R R).symm.toLinearMap
+    intro x hx
+    simp only [LinearMap.coe_comp, Function.comp_apply, ← eqcomp, LinearEquiv.coe_coe,
+      Submodule.coe_subtype]
+    rfl
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Baer.lean]:
```suggestion
  · rcases h (Ext.mk₀ (ModuleCat.ofHom (g.comp (Shrink.linearEquiv R I).toLinearMap))) with ⟨f', hf'⟩
    rw [Ext.bilinearComp_apply_apply, ← Ext.mk₀_addEquiv₀_apply f', Ext.mk₀_comp_mk₀] at hf'
    use (Ext.addEquiv₀ f').hom.comp (Shrink.linearEquiv R R).symm.toLinearMap
    intro x hx
    have := ConcreteCategory.congr_hom ((Ext.mk₀_bijective _ _).1 hf') 
      ((Shrink.linearEquiv R I).symm ⟨x, hx⟩)
    cat_disch
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 7]
```diff
@@ -0,0 +1,132 @@
...
+    mono_f := (ModuleCat.mono_iff_injective _).mpr inj
+    epi_g := (ModuleCat.epi_iff_surjective _).mpr surj }
+  have : Subsingleton (Ext (ModuleCat.of R (Shrink.{v} (R ⧸ I))) M 1) ↔
+    Function.Surjective ((Ext.mk₀ S.f).precomp M (add_zero 0)) := by
+    apply Iff.trans _ ((Ext.contravariant_sequence_exact₁' S_exact M 0 1 rfl).epi_f_iff.symm.trans
+      (AddCommGrpCat.epi_iff_surjective _))
+    refine ⟨fun h ↦ ((@AddCommGrpCat.isZero_of_subsingleton _ h).eq_zero_of_tgt _), fun h ↦ ?_⟩
+    exact AddCommGrpCat.subsingleton_of_isZero ((Ext.contravariant_sequence_exact₃' S_exact M 0 1
+      rfl).isZero_X₂ h ((@AddCommGrpCat.isZero_of_subsingleton _
+      (Ext.subsingleton_of_projective S.X₂ M 0)).eq_zero_of_tgt _))
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: This could be a separate lemma

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: OK, however I think it should directly relate to `Hom` instead of `Ext_0`.

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean (hunk 5 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Baer.lean]: I suggest we have a more convenient API for `ShortComplex` and `ShortComplex.ShortExact` for ModuleCat

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Baer.lean]: And I believe, it has nothing to do with `ModuleCat.shortComplexKer`, I did shrink in the proccess.

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean (hunk 7 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: Also, I don't think it is useful enough

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 8]
```diff
@@ -221,4 +221,19 @@ theorem LinearMap.shortExact_shortComplexKer {f : M →ₗ[R] N} (h : Function.S
...
 
+variable {L : Type v} [AddCommGroup L] [Module R L]
+
+/-- The short complex in `ModuleCat` obtained from two linear map with composition equal to zero. -/
+abbrev ModuleCat.shortComplexOfCompEqZero (f : M →ₗ[R] N) (g : N →ₗ[R] L) (eq0 : g.comp f = 0) :
+    ShortComplex (ModuleCat.{v} R) where
+  f := ModuleCat.ofHom f
+  g := ModuleCat.ofHom g
+
+lemma ModuleCat.shortComplex_shortExact_of_hom (S : ShortComplex (ModuleCat.{v} R))
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean]: Could you also make a lemma `ModuleCat.shortComplex_exact`?
```suggestion
lemma ModuleCat.shortComplex_shortExact (S : ShortComplex (ModuleCat.{v} R))
```

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean (hunk 5 above)
Comment (dagurtomas) [reply Mathlib/Algebra/Category/ModuleCat/Baer.lean]: I know it's not exactly `ModuleCat.shortComplexKer`, but it's a short exact sequence which is isomorphic to `shortComplexKer`. I totally agree about adding more convenient API for `ShortComplex` and `ShortExact` for `ModuleCat`, such API would be a welcome contribution that you should make this PR depend on.

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean (hunk 8 above)
Comment (dagurtomas) [reply Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean]: As far as I can tell, you have not added the `exact` version that Joël is asking for

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean]: Sorry for this (

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean (hunk 5 above)
Comment (dagurtomas) [reply Mathlib/Algebra/Category/ModuleCat/Baer.lean]: I commented on #35882, there is room for a lot more useful API that is applicable here (so you can take into account my first comment in this thread as well

**Comment by Thmoas-Guan** [comment]
I am already planning some systematic addition on APIs about `Function.Exact` and usage in long exact sequence of `Ext`, but it may take some time.

**Comment by Thmoas-Guan** [comment]
@dagurtomas what do you think of the current proof? (Or maybe we should work with the new APIs first?)
The problem left is that the equivalence between surjectivity of shrunk modules and the original one isn't that straight forward in any sense, I didn't find a bigger framework to fit it in. The current one working on element is the best I can have now.

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean [hunk 9]
```diff
@@ -0,0 +1,117 @@
...
+lemma injective_of_subsingleton_ext_quotient_one [Small.{v} R] (M : ModuleCat.{v} R)
+    (h : ∀ (I : Ideal R), Subsingleton (Ext (ModuleCat.of R (Shrink.{v} (R ⧸ I))) M 1)) :
+    Injective M := by
+  rw [← Module.injective_iff_injective_object, ← Module.Baer.iff_injective]
+  exact fun I ↦ (ext_quotient_one_subsingleton_iff M I).mp (h I)
+
+open Limits in
+lemma ext_subsingleton_of_quotients' [Small.{v} R] (M : ModuleCat.{v} R) (n : ℕ)
+    (h : ∀ I : Ideal R, Subsingleton (Ext (ModuleCat.of R (Shrink.{v} (R ⧸ I))) M (n + 1))) :
+    ∀ N : ModuleCat.{v} R, Subsingleton (Ext N M (n + 1)) := by
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Baer.lean]: Why not use `HasInjectiveDimensionLT` here?

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Baer.lean]: I can provide an alternative version now. For removing the current version I would like to check my usages first. The reason is probably at that time we are missing the enough projectives characterization.

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Baer.lean]: You are correct, `HasInjectiveDimensionLT` is used more common.

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean [hunk 10]
```diff
@@ -0,0 +1,115 @@
...
+
+universe u u' v v'
+
+variable {R : Type u} [CommRing R]
+
+open CategoryTheory Abelian
+
+namespace ModuleCat
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Baer.lean]:
```suggestion
```

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean [hunk 11]
```diff
@@ -0,0 +1,115 @@
...
+  have S_exact := ModuleCat.shortComplex_shortExact S exac inj surj
+  have : Subsingleton (Ext (ModuleCat.of R (Shrink.{v} (R ⧸ I))) M 1) ↔
+    Function.Surjective ((Ext.mk₀ S.f).precomp M (add_zero 0)) := by
+    apply Iff.trans _ ((Ext.contravariant_sequence_exact₁' S_exact M 0 1 rfl).epi_f_iff.symm.trans
+      (AddCommGrpCat.epi_iff_surjective _))
+    refine ⟨fun h ↦ ((@AddCommGrpCat.isZero_of_subsingleton _ h).eq_zero_of_tgt _), fun h ↦ ?_⟩
+    exact AddCommGrpCat.subsingleton_of_isZero ((Ext.contravariant_sequence_exact₃' S_exact M 0 1
+      rfl).isZero_X₂ h ((@AddCommGrpCat.isZero_of_subsingleton _
+      (Ext.subsingleton_of_projective S.X₂ M 0)).eq_zero_of_tgt _))
+  apply this.trans ⟨fun h ↦ fun g ↦ ?_, fun h ↦ fun e ↦ ?_⟩
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Baer.lean]:
```suggestion
  refine this.trans ⟨fun h ↦ fun g ↦ ?_, fun h ↦ fun e ↦ ?_⟩
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 12]
```diff
@@ -0,0 +1,115 @@
...
+    (Shrink.linearEquiv.{v} R I).toLinearMap
+  let Sg := (Shrink.linearEquiv.{v} R (R ⧸ I)).symm.comp
+    (I.mkQ.comp (Shrink.linearEquiv.{v} R R).toLinearMap)
+  have exac : Function.Exact Sf Sg := by
+    rw [LinearEquiv.precomp_exact_iff_exact, LinearEquiv.postcomp_exact_iff_exact,
+      LinearEquiv.conj_symm_exact_iff_exact, LinearMap.exact_iff, I.ker_mkQ, I.range_subtype]
+  have inj : Function.Injective Sf := by simpa [Sf] using (Shrink.linearEquiv R I).injective
+  have surj : Function.Surjective Sg := by simpa [Sg] using I.mkQ_surjective
+  let S := ModuleCat.shortComplexOfCompEqZero Sf Sg exac.linearMap_comp_eq_zero
+  have S_exact := ModuleCat.shortComplex_shortExact S exac inj surj
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: Let me reiterate here my point from two months ago: Here you are defining the short exact sequence `0 -> I -> R -> R/I -> 0` (with some shrinking in the process, but in any case it's an isomorphic short exact sequence). This should not be done inside the proof, there should be API for this.

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 13]
```diff
@@ -0,0 +1,115 @@
+/-
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean:1]: This file should be moved to the folder `ModuleCat/Ext/`.

File: Mathlib/Algebra/Category/ModuleCat/Baer.lean [hunk 14]
```diff
@@ -0,0 +1,115 @@
...
+    (h : ∀ I : Ideal R, Subsingleton (Ext (ModuleCat.of R (Shrink.{v} (R ⧸ I))) M n)) :
+    HasInjectiveDimensionLT M n := by
+  match n with
+  | 0 =>
+    let e₀ := (Shrink.linearEquiv R (R ⧸ (⊥ : Ideal R))).trans (Submodule.quotEquivOfEqBot _ rfl)
+    have := (Ext.homEquiv₀.subsingleton_congr.mp (h ⊥))
+    rw [ModuleCat.homAddEquiv.subsingleton_congr,
+      ((e₀.congrLeft M R).trans (LinearMap.ringLmapEquivSelf R R M)).subsingleton_congr,
+      ← ModuleCat.isZero_iff_subsingleton] at this
+    exact this.hasInjectiveDimensionLT_zero
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Baer.lean]: This is one line longer, but I would think this would make the code slightly more maintainable:
```suggestion
    apply Limits.IsZero.hasInjectiveDimensionLT_zero
    rw [ModuleCat.isZero_iff_subsingleton]
    refine (Equiv.subsingleton_congr ?_).1 (h ⊥)
    exact Ext.homEquiv₀.trans (ModuleCat.homEquiv.trans
      ((((Shrink.linearEquiv _ _).trans
        (Submodule.quotEquivOfEqBot _ rfl)).congrLeft M R).trans
          (LinearMap.ringLmapEquivSelf R R M)).toEquiv)
```

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Baer.lean]: What do you think of breaking the big equiv after `ModuleCat.homEquiv`? this also separates the one originally equiv and originally linear equiv.

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean (hunk 12 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: APIs added, what do you think of the problem of synth on projective? Is there a way to solve it? (The manual projective instance at line 42)

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 15]
```diff
@@ -0,0 +1,108 @@
...
+set_option backward.isDefEq.respectTransparency false in
+lemma ext_quotient_one_subsingleton_iff [Small.{v} R] (M : ModuleCat.{v} R) (I : Ideal R) :
+    Subsingleton (Ext (ModuleCat.of R (Shrink.{v} (R ⧸ I))) M 1) ↔
+    ∀ g : I →ₗ[R] M, ∃ g' : R →ₗ[R] M, ∀ (x : R) (mem : x ∈ I), g' x = g ⟨x, mem⟩ := by
+  have exact : Function.Exact I.subtype I.mkQ := LinearMap.exact_subtype_mkQ I
+  let S := ModuleCat.shortComplexOfConj (Shrink.linearEquiv R I) (Shrink.linearEquiv R R)
+    (Shrink.linearEquiv R (R ⧸ I)) _ _  exact.linearMap_comp_eq_zero
+  have S_exact : S.ShortExact :=
+    ModuleCat.shortComplexOfConj_shortExact _ _ _ _ _ exact I.subtype_injective I.mkQ_surjective
+  have : Projective S.X₂ := projective_of_categoryTheory_projective (ModuleCat.of R (Shrink.{v} R))
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]:
```suggestion
  have : Projective S.X₂ := by dsimp [S, shortComplexOfConj]; infer_instance
```
This is expected, typeclass inference doesn't see through these definitions

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 16]
```diff
@@ -0,0 +1,108 @@
...
+    Function.Surjective ((Ext.mk₀ S.f).precomp M (add_zero 0)) := by
+    apply Iff.trans _ ((Ext.contravariant_sequence_exact₁' S_exact M 0 1 rfl).epi_f_iff.symm.trans
+      (AddCommGrpCat.epi_iff_surjective _))
+    refine ⟨fun h ↦ ((@AddCommGrpCat.isZero_of_subsingleton _ h).eq_zero_of_tgt _), fun h ↦ ?_⟩
+    exact AddCommGrpCat.subsingleton_of_isZero ((Ext.contravariant_sequence_exact₃' S_exact M 0 1
+      rfl).isZero_X₂ h ((@AddCommGrpCat.isZero_of_subsingleton _
+      (Ext.subsingleton_of_projective S.X₂ M 0)).eq_zero_of_tgt _))
+  refine this.trans ⟨fun h ↦ fun g ↦ ?_, fun h ↦ fun e ↦ ?_⟩
+  · rcases h (Ext.mk₀ (ModuleCat.ofHom (g.comp (Shrink.linearEquiv R I).toLinearMap))) with
+      ⟨f', hf'⟩
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]:
```suggestion
  · obtain ⟨f', hf'⟩ := h (Ext.mk₀ (ModuleCat.ofHom (g.comp (Shrink.linearEquiv R I).toLinearMap)))
```
`rcases` vs `obtain` is personal preference, but this makes it fit on one line. If you implement this, you should replace `rcases` by `obtain` throughout the whole file to be consistent.

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 17]
```diff
@@ -0,0 +1,108 @@
...
+      ((Shrink.linearEquiv R I).symm ⟨x, hx⟩)
+    simpa [- Shrink.linearEquiv_apply, - Shrink.linearEquiv_symm_apply, S, shortComplexOfConj]
+      using this
+  · rcases h ((Ext.addEquiv₀ e).hom.comp (Shrink.linearEquiv R I).symm.toLinearMap) with ⟨g', hg'⟩
+    use Ext.mk₀ (ModuleCat.ofHom (g'.comp (Shrink.linearEquiv R R).toLinearMap))
+    rw [Ext.bilinearComp_apply_apply, Ext.mk₀_comp_mk₀, ← Ext.mk₀_addEquiv₀_apply e]
+    congr
+    ext x
+    simp [- Shrink.linearEquiv_apply, - Shrink.linearEquiv_symm_apply,
+      LinearMap.comp_apply, S, shortComplexOfConj, hg' _ ((Shrink.linearEquiv R I) x).2]
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]:
```suggestion
    simpa [-Shrink.linearEquiv_apply, -Shrink.linearEquiv_symm_apply, S, shortComplexOfConj]
      using this
  · rcases h ((Ext.addEquiv₀ e).hom.comp (Shrink.linearEquiv R I).symm.toLinearMap) with ⟨g', hg'⟩
    use Ext.mk₀ (ModuleCat.ofHom (g'.comp (Shrink.linearEquiv R R).toLinearMap))
    rw [Ext.bilinearComp_apply_apply, Ext.mk₀_comp_mk₀, ← Ext.mk₀_addEquiv₀_apply e]
    congr
    ext x
    simp [-Shrink.linearEquiv_apply, -Shrink.linearEquiv_symm_apply,
      LinearMap.comp_apply, S, shortComplexOfConj, hg' _ ((Shrink.linearEquiv R I) x).2]
```
I think this is the preferred style, although it is not mentioned explicitly in the style guide. It is certainly more common.

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 18]
```diff
@@ -0,0 +1,108 @@
...
+  exact fun I ↦ (ext_quotient_one_subsingleton_iff M I).mp (h I)
+
+open Limits in
+lemma hasInjectiveDimensionLE_of_quotients [Small.{v} R] (M : ModuleCat.{v} R) (n : ℕ)
+    (h : ∀ I : Ideal R, Subsingleton (Ext (ModuleCat.of R (Shrink.{v} (R ⧸ I))) M (n + 1))) :
+    HasInjectiveDimensionLE M n := by
+  induction n generalizing M
+  · have : Injective M := injective_of_subsingleton_ext_quotient_one M h
+    infer_instance
+  · rename_i n ih
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]:
```suggestion
  induction n generalizing M with
  | zero =>
    have : Injective M := injective_of_subsingleton_ext_quotient_one M h
    infer_instance
  | succ n ih =>
```
When you write `induction n generalizing M` you can click on the lightbulb to generate this

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 19]
```diff
@@ -0,0 +1,108 @@
...
+    let ip : InjectivePresentation M := (EnoughInjectives.presentation M).some
+    let S := ip.shortComplex
+    have (N : ModuleCat R) : Subsingleton (Ext N M (n + 2)) ↔
+      Subsingleton (Ext N (cokernel ip.3) (n + 1)) := by
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]:
```suggestion
        Subsingleton (Ext N (cokernel ip.3) (n + 1)) := by
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 20]
```diff
@@ -0,0 +1,108 @@
...
+      have := Ext.subsingleton_of_injective N S.X₂
+      have := (Ext.covariantSequence_exact N ip.shortExact_shortComplex (n + 1) (n + 2)
+        rfl).isIso_map' 1 (by decide) ((AddCommGrpCat.of _).isZero_of_subsingleton.eq_zero_of_src _)
+        ((AddCommGrpCat.of _).isZero_of_subsingleton.eq_zero_of_tgt  _)
+      exact (@asIso _ _ _ _ _ this).addCommGroupIsoToAddEquiv.subsingleton_congr.symm
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: This is very unreadable. You should state here explicitly what the `have` statement is saying, and probably it's more readable to prove it in tactic mode instead of this 3-line term. And the `@asIso` can be avoided by mentioning the morphism explicitly

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 21]
```diff
@@ -238,4 +238,34 @@ lemma ModuleCat.shortComplex_shortExact (S : ShortComplex (ModuleCat.{v} R))
   mono_f := (ModuleCat.mono_iff_injective _).mpr inj
   epi_g := (ModuleCat.epi_iff_surjective _).mpr surj
 
+variable {M' N' L' : Type*} [AddCommGroup M'] [AddCommGroup N'] [AddCommGroup L']
+  [Module R M'] [Module R N'] [Module R L']
+
+variable (eM : M ≃ₗ[R] M') (eN : N ≃ₗ[R] N') (eL : L ≃ₗ[R] L') (f : M' →ₗ[R] N') (g : N' →ₗ[R] L')
+
+/-- The short complex in `ModuleCat` obtained from conjugate by linear equivalences. -/
+def ModuleCat.shortComplexOfConj (eq0 : g ∘ₗ f = 0) :
```
Comment (dagurtomas) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean]:
```suggestion
@[simps! X₁ X₂ X₃ f g]
def ModuleCat.shortComplexOfConj (eq0 : g ∘ₗ f = 0) :
```
Also change `ModuleCat.shortComplexOfCompEqZero` to a `def` with this `@[simps X₁ X₂ X₃ f g]`.

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 22]
```diff
@@ -238,4 +238,34 @@ lemma ModuleCat.shortComplex_shortExact (S : ShortComplex (ModuleCat.{v} R))
...
+    (ModuleCat.shortComplexOfConj eM eN eL f g exact.linearMap_comp_eq_zero).Exact :=
+  ModuleCat.shortComplex_exact _ (exact_conj_of_exact eM eN eL f g exact)
+
+set_option backward.isDefEq.respectTransparency false in
+lemma ModuleCat.shortComplexOfConj_shortExact (exact : Function.Exact f g)
+    (inj : Function.Injective f) (surj : Function.Surjective g) :
+    (ModuleCat.shortComplexOfConj eM eN eL f g exact.linearMap_comp_eq_zero).ShortExact := by
+  refine ModuleCat.shortComplex_shortExact _ (exact_conj_of_exact eM eN eL f g exact) ?_ ?_
+  · simpa [ModuleCat.shortComplexOfConj] using inj
+  · simpa [ModuleCat.shortComplexOfConj] using surj
```
Comment (dagurtomas) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean]:
```suggestion
  refine ModuleCat.shortComplex_shortExact _ (exact_conj_of_exact eM eN eL f g exact) ?_ ?_
  all_goals simpa
```
Works if you implement my `@[simps!]` suggestions above.

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean (hunk 12 above)
Comment (dagurtomas) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: I commented on the projectivity thing below. This is expected behaviour.

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean (hunk 15 above)
Comment (dagurtomas) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: With my suggestions of adding the simps attributes in `Homology/ShortComplex.lean`, this can be shortened to `dsimp [S]; infer_instance`

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: How about adding one via the original module (on the other side of the isomorphism).

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean (hunk 18 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: Sorry, I only forgot to golf this (this is due to that remove of induction')

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean (hunk 20 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: This is iso from long exact sequence with both terms outside being zero, I think I can move the two is zero outside. I really don't want to write down the explicit morphism twice.... So probably I should add it in the have.

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 23]
```diff
@@ -0,0 +1,110 @@
...
+      ((Shrink.linearEquiv R I).symm ⟨x, hx⟩)
+    simpa [-Shrink.linearEquiv_apply, -Shrink.linearEquiv_symm_apply, S, shortComplexOfConj]
+      using this
+  · obtain ⟨g', hg'⟩ := h ((Ext.addEquiv₀ e).hom.comp (Shrink.linearEquiv R I).symm.toLinearMap)
+    use Ext.mk₀ (ModuleCat.ofHom (g'.comp (Shrink.linearEquiv R R).toLinearMap))
+    rw [Ext.bilinearComp_apply_apply, Ext.mk₀_comp_mk₀, ← Ext.mk₀_addEquiv₀_apply e]
+    congr
+    ext x
+    simp [-Shrink.linearEquiv_apply, -Shrink.linearEquiv_symm_apply,
+      LinearMap.comp_apply, S, shortComplexOfConj, hg' _ ((Shrink.linearEquiv R I) x).2]
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]:
```suggestion
      simpa [S]
  · obtain ⟨g', hg'⟩ := h ((Ext.addEquiv₀ e).hom.comp (Shrink.linearEquiv R I).symm.toLinearMap)
    use Ext.mk₀ (ModuleCat.ofHom (g'.comp (Shrink.linearEquiv R R).toLinearMap))
    rw [Ext.bilinearComp_apply_apply, Ext.mk₀_comp_mk₀, ← Ext.mk₀_addEquiv₀_apply e]
    congr
    ext x
    simp_all [S]
```

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 24]
```diff
@@ -238,4 +238,34 @@ lemma ModuleCat.shortComplex_shortExact (S : ShortComplex (ModuleCat.{v} R))
...
+lemma ModuleCat.shortComplexOfConj_exact (exact : Function.Exact f g) :
+    (ModuleCat.shortComplexOfConj eM eN eL f g exact.linearMap_comp_eq_zero).Exact :=
+  ModuleCat.shortComplex_exact _ (exact_conj_of_exact eM eN eL f g exact)
+
+set_option backward.isDefEq.respectTransparency false in
+lemma ModuleCat.shortComplexOfConj_shortExact (exact : Function.Exact f g)
+    (inj : Function.Injective f) (surj : Function.Surjective g) :
+    (ModuleCat.shortComplexOfConj eM eN eL f g exact.linearMap_comp_eq_zero).ShortExact := by
+  refine ModuleCat.shortComplex_shortExact _ (exact_conj_of_exact eM eN eL f g exact) ?_ ?_
+  all_goals simpa
```
Comment (dagurtomas) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean]:
```suggestion
abbrev ModuleCat.shortComplexOfConj (eq0 : g ∘ₗ f = 0) :
    ShortComplex (ModuleCat.{v} R) :=
  ModuleCat.shortComplexOfCompEqZero ((eN.symm.comp f).comp eM.toLinearMap)
    (eL.symm.comp (g.comp eN.toLinearMap)) (by
      ext x
      simpa using LinearMap.congr_fun eq0 (eM x))

private lemma exact_conj_of_exact (exact : Function.Exact f g) : Function.Exact
    ((eN.symm.comp f).comp eM.toLinearMap) (eL.symm.comp (g.comp eN.toLinearMap)) := by
  rwa [LinearEquiv.precomp_exact_iff_exact, LinearEquiv.postcomp_exact_iff_exact,
    LinearEquiv.conj_symm_exact_iff_exact]

lemma ModuleCat.shortComplexOfConj_exact (exact : Function.Exact f g) :
    (ModuleCat.shortComplexOfConj eM eN eL f g exact.linearMap_comp_eq_zero).Exact :=
  ModuleCat.shortComplex_exact _ (exact_conj_of_exact eM eN eL f g exact)

lemma ModuleCat.shortComplexOfConj_shortExact (exact : Function.Exact f g)
    (inj : Function.Injective f) (surj : Function.Surjective g) :
    (ModuleCat.shortComplexOfConj eM eN eL f g exact.linearMap_comp_eq_zero).ShortExact := by
  refine ModuleCat.shortComplex_shortExact _ (exact_conj_of_exact eM eN eL f g exact) ?_ ?_
  all_goals simpa
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 25]
```diff
@@ -0,0 +1,108 @@
...
+public import Mathlib.Algebra.Category.Grp.Zero
+public import Mathlib.Algebra.Category.ModuleCat.EnoughInjectives
+public import Mathlib.Algebra.Category.ModuleCat.Ext.DimensionShifting
+public import Mathlib.Algebra.Category.ModuleCat.Projective
+public import Mathlib.Algebra.Homology.DerivedCategory.Ext.EnoughInjectives
+public import Mathlib.Algebra.Homology.DerivedCategory.Ext.EnoughProjectives
+public import Mathlib.Algebra.Homology.ShortComplex.ModuleCat
+public import Mathlib.CategoryTheory.Abelian.Injective.Dimension
+public import Mathlib.CategoryTheory.Abelian.Injective.Resolution
+public import Mathlib.RingTheory.Ideal.Quotient.Operations
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]:
```suggestion
public import Mathlib.Algebra.Category.Grp.Zero
public import Mathlib.Algebra.Category.ModuleCat.EnoughInjectives
public import Mathlib.Algebra.Category.ModuleCat.Ext.HasExt
public import Mathlib.Algebra.Homology.ShortComplex.ModuleCat
public import Mathlib.CategoryTheory.Abelian.Injective.Dimension
public import Mathlib.CategoryTheory.Abelian.Injective.Resolution
public import Mathlib.RingTheory.Ideal.Quotient.Defs
```

Found using `#min_imports` (you should get in the habit of using that)

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 26]
```diff
@@ -0,0 +1,108 @@
...
+
+universe u v
+
+variable {R : Type u} [CommRing R]
+
+open CategoryTheory Abelian
+
+namespace ModuleCat
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]:
```suggestion
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 27]
```diff
@@ -0,0 +1,108 @@
...
+public import Mathlib.Algebra.Homology.DerivedCategory.Ext.EnoughInjectives
+public import Mathlib.Algebra.Homology.DerivedCategory.Ext.EnoughProjectives
+public import Mathlib.Algebra.Homology.ShortComplex.ModuleCat
+public import Mathlib.CategoryTheory.Abelian.Injective.Dimension
+public import Mathlib.CategoryTheory.Abelian.Injective.Resolution
+public import Mathlib.RingTheory.Ideal.Quotient.Operations
+
+/-!
+# Category Language Baer Criterion
+-/
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean:42]: This file needs better documentation. Explain the "Baer Criterion" in the module docstring, indicate the main results in the file, add docstrings on the main results, and every proof that's longer than 10 lines should contain some comments explaining what's happening (another solution is to split up proofs into smaller lemmas -- either solution you choose makes the file more readable).

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 28]
```diff
@@ -238,4 +238,32 @@ lemma ModuleCat.shortComplex_shortExact (S : ShortComplex (ModuleCat.{v} R))
   mono_f := (ModuleCat.mono_iff_injective _).mpr inj
   epi_g := (ModuleCat.epi_iff_surjective _).mpr surj
 
+variable {M' N' L' : Type*} [AddCommGroup M'] [AddCommGroup N'] [AddCommGroup L']
+  [Module R M'] [Module R N'] [Module R L']
+
+variable (eM : M ≃ₗ[R] M') (eN : N ≃ₗ[R] N') (eL : L ≃ₗ[R] L') (f : M' →ₗ[R] N') (g : N' →ₗ[R] L')
+
+/-- The short complex in `ModuleCat` obtained from conjugate by linear equivalences. -/
```
Comment (dagurtomas) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean]: Can you add an ASCII diagram explaining what's going on here?

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean:1]: I feel like it would be easier to first do the case with `R : Type v`, and then try to deduce fully universe polymorphic versions of only the important results. Probably not every auxiliary lemma needs a universe polymorphic version

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean:1]: I really don't think this is very easy to do so, this probably needs some results from #31768 (sorry didn't announce about this, I removed some universe polymorphism) to deal with shrink of ring.

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean:1]: Currently modulo the added short complex API, the cost is limited within `ext_quotient_one_subsingleton_iff`, what do you think?

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean (hunk 28 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean]: How should I hint the vertical maps equivalences within the graph? Is there a usual way?

Comment (dagurtomas) [reply Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean]:
```
|
v
```
(you seem to have figured it out)

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 29]
```diff
@@ -238,4 +238,41 @@ lemma ModuleCat.shortComplex_shortExact (S : ShortComplex (ModuleCat.{v} R))
...
+/--
+The short complex in `ModuleCat` obtained from conjugate by linear equivalences.
+M --f--> N --g--> L
+|        |        |
+eM       eN       eL
+|        |        |
+v        v        v
+M'-----> N'-----> L'
+Here the three vertical maps are linear equivalences.
+-/
```
Comment (dagurtomas) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean:259]: This docstring should explain clearly the assumptions, namely that you're taking a universe polymorphic short complex and transporting each term to the same universe via linear equivs, and then defining the corresponding complex in `ModuleCat`

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean (hunk 27 above)
Comment (dagurtomas) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean:42]: Unresolved because the proofs are still too long and unreadable. This can be improved by either splitting them into smaller lemmas, or adding comments throughout the proofs (Or, I'm guessing, by introducing universe polymorphism later in the process)

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean:42]: What do you think now?

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 30]
```diff
@@ -0,0 +1,128 @@
...
+public import Mathlib.Algebra.Category.ModuleCat.EnoughInjectives
+public import Mathlib.Algebra.Category.ModuleCat.Ext.HasExt
+public import Mathlib.Algebra.Homology.ShortComplex.ModuleCat
+public import Mathlib.CategoryTheory.Abelian.Injective.Dimension
+public import Mathlib.CategoryTheory.Abelian.Injective.Resolution
+public import Mathlib.RingTheory.Ideal.Quotient.Defs
+
+/-!
+
+# Category Language Baer Criterion
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: The title should be more something like "Baer criterion for injective dimension"

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 31]
```diff
@@ -0,0 +1,128 @@
...
+
+universe u v
+
+variable {R : Type u} [CommRing R]
+
+open CategoryTheory Abelian
+
+namespace ModuleCat
+
+lemma ext_one_subsingleton_iff_of_prijective [Small.{v} R] (M : ModuleCat.{v} R)
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: The following proof would be much readable:
```lean
attribute [local instance] Ext.subsingleton_of_projective in -- this should be a global instance
lemma ext_one_subsingleton_iff_of_projective [Small.{v} R] (M : ModuleCat.{v} R)
    (S : ShortComplex.{v} (ModuleCat R)) (S_exact : S.ShortExact) (proj : Projective S.X₂) :
    Subsingleton (Ext S.X₃ M 1) ↔ Function.Surjective ((Ext.mk₀ S.f).precomp M (add_zero 0)) := by
  refine ⟨fun h x₁ ↦ Ext.contravariant_sequence_exact₁ S_exact _ x₁ (add_zero _)
    (by subsingleton), fun h ↦ subsingleton_of_forall_eq 0 (fun x₃ ↦ ?_)⟩
  obtain ⟨x₁, rfl⟩ := Ext.contravariant_sequence_exact₃ S_exact _ x₃
    (by subsingleton) (add_zero 1)
  obtain ⟨x₂, rfl⟩ := h x₁
  simp
```
Note that I have instructed you multiple times to favour `Ext.contravariant_sequence_exact₁` over `Ext.contravariant_sequence_exact₁'` when doing diagram chasing arguments.

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: Very sorry, I'll try refactoring the proofs, especially the ones written before this suggestion.

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: @joelriou This can't synth `Subsingleton (Ext S.X_2 M 1)` even after I made `Ext.subsingleton_of_projective` an instance.

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: Also, things are failing after making them instances, I have no idea why.

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 32]
```diff
@@ -0,0 +1,129 @@
...
+open Limits in
+lemma hasInjectiveDimensionLE_of_quotients [Small.{v} R] (M : ModuleCat.{v} R) (n : ℕ)
+    (h : ∀ I : Ideal R, Subsingleton (Ext (ModuleCat.of R (Shrink.{v} (R ⧸ I))) M (n + 1))) :
+    HasInjectiveDimensionLE M n := by
+  induction n generalizing M with
+  | zero =>
+    have : Injective M := injective_of_subsingleton_ext_quotient_one M h
+    infer_instance
+  | succ n ih =>
+    let ip : InjectivePresentation M := (EnoughInjectives.presentation M).some
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: This seems more readable to me (requires making `Ext.subsingleton_of_injective` a local instance):
```lean
    let ip : InjectivePresentation M := Classical.arbitrary _
    refine ip.shortExact_shortComplex.hasInjectiveDimensionLT_X₁ _
      (ih _ (fun I ↦ subsingleton_of_forall_eq 0 (fun x₃ ↦ ?_))) inferInstance
    obtain ⟨x₂, rfl⟩ := Ext.covariant_sequence_exact₃ _ ip.shortExact_shortComplex x₃ rfl
      (by subsingleton)
    simp [Subsingleton.elim x₂ 0]
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 33]
```diff
@@ -0,0 +1,123 @@
...
+    ∀ g : I →ₗ[R] M, ∃ g' : R →ₗ[R] M, ∀ (x : R) (mem : x ∈ I), g' x = g ⟨x, mem⟩ := by
+  have exact : Function.Exact I.subtype I.mkQ := LinearMap.exact_subtype_mkQ I
+  let S := ModuleCat.shortComplexOfConj (Shrink.linearEquiv R I) (Shrink.linearEquiv R R)
+    (Shrink.linearEquiv R (R ⧸ I)) _ _  exact.linearMap_comp_eq_zero
+  have S_exact : S.ShortExact :=
+    ModuleCat.shortComplexOfConj_shortExact _ _ _ _ _ exact I.subtype_injective I.mkQ_surjective
+  have : Projective S.X₂ := by dsimp [S]; infer_instance
+  --Reduce the vanishing of `Ext (R ⧸ I) M 1` to surjectivity of `Ext R M 0 → Ext I M 0`,
+  --but with shrink involved.
+  apply (ext_one_subsingleton_iff_of_projective M S S_exact this).trans
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]:
```suggestion
  rw [ext_one_subsingleton_iff_of_projective M S S_exact (by dsimp [S]; infer_instance)]
  --Reduce the vanishing of `Ext (R ⧸ I) M 1` to surjectivity of `Ext R M 0 → Ext I M 0`,
  --but with shrink involved.
```

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 34]
```diff
@@ -238,4 +238,43 @@ lemma ModuleCat.shortComplex_shortExact (S : ShortComplex (ModuleCat.{v} R))
...
+The short complex in `ModuleCat` obtained from conjugate by linear equivalences.
+M --f--> N --g--> L
+|        |        |
+eM       eN       eL
+|        |        |
+v        v        v
+M'-----> N'-----> L'
+More precisely, With the three vertical maps are linear equivalences, we obtain the short complex
+`M' → N' → L'` with morphisms `eN ∘ₗ f ∘ₗ eM.symm` and `eL ∘ₗ g ∘ₗ eN.symm`.
+This complex is exact when `f` and `g` are exact, see `ModuleCat.shortComplexOfConj_exact`.
```
Comment (dagurtomas) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean]:
```suggestion
Suppose that `f` and `g` are linear maps that compose to zero, and that `eM`, `eN`, and `eL` indicated in the diagram below are linear equivalences to modules that all belong to the same universe. Then this is the short complex in `ModuleCat` given by the bottom row in the diagram 
M --f--> N --g--> L
|        |        |
eM       eN       eL
|        |        |
v        v        v
M'-----> N'-----> L'
This complex is exact when we have `Function.Exact f g`, see `ModuleCat.shortComplexOfConj_exact`.
```

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 35]
```diff
@@ -238,4 +238,41 @@ lemma ModuleCat.shortComplex_shortExact (S : ShortComplex (ModuleCat.{v} R))
...
+  [Module R M'] [Module R N'] [Module R L']
+
+variable (eM : M ≃ₗ[R] M') (eN : N ≃ₗ[R] N') (eL : L ≃ₗ[R] L') (f : M' →ₗ[R] N') (g : N' →ₗ[R] L')
+
+/--
+Suppose that `f` and `g` are linear maps that compose to zero, and that `eM`, `eN`, and `eL` indicated in the diagram below are linear equivalences to modules that all belong to the same universe. Then this is the short complex in `ModuleCat` given by the bottom row in the diagram 
+M --f--> N --g--> L
+|        |        |
+eM       eN       eL
+|        |        |
```
Comment (dagurtomas) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean:254]: splice-bot

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 36]
```diff
@@ -0,0 +1,122 @@
...
+    (h : ∀ I : Ideal R, Subsingleton (Ext (ModuleCat.of R (Shrink.{v} (R ⧸ I))) M n)) :
+    HasInjectiveDimensionLT M n := by
+  match n with
+  | 0 =>
+    apply Limits.IsZero.hasInjectiveDimensionLT_zero
+    rw [ModuleCat.isZero_iff_subsingleton]
+    refine ((Ext.homEquiv₀.trans ModuleCat.homEquiv).trans ?_).subsingleton_congr.mp (h ⊥)
+    exact ((((Shrink.linearEquiv _ _).trans
+      (Submodule.quotEquivOfEqBot _ rfl)).congrLeft M R).trans
+        (LinearMap.ringLmapEquivSelf R R M)).toEquiv
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]:
```suggestion
    apply Limits.IsZero.hasInjectiveDimensionLT_zero
    rw [ModuleCat.isZero_iff_subsingleton]
    let e : (Ext (of R (Shrink.{v, u} (R ⧸ (⊥ : Ideal R)))) M 0) ≃ M := sorry
    rw [← e.subsingleton_congr]
    exact h ⊥
```
This is better (you just need to fill in the sorry with the `Equiv` you're using

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean [hunk 37]
```diff
@@ -238,4 +238,41 @@ lemma ModuleCat.shortComplex_shortExact (S : ShortComplex (ModuleCat.{v} R))
...
+
+/--
+Suppose that `f` and `g` are linear maps that compose to zero, and that `eM`, `eN`, and `eL` indicated in the diagram below are linear equivalences to modules that all belong to the same universe. Then this is the short complex in `ModuleCat` given by the bottom row in the diagram
+M --f--> N --g--> L
+|        |        |
+eM       eN       eL
+|        |        |
+v        v        v
+M'-----> N'-----> L'
+This complex is exact when we have `Function.Exact f g`, see `ModuleCat.shortComplexOfConj_exact`.
```
Comment (dagurtomas) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean]:
```suggestion
Suppose that `f` and `g` are linear maps that compose to zero, and that `eM`, `eN`, and `eL`
indicated in the diagram below are linear equivalences to modules that all belong to the same
universe. Then this is the short complex in `ModuleCat` given by the bottom row in the diagram.
M --f--> N --g--> L
|        |        |
eM       eN       eL
|        |        |
v        v        v
M'-----> N'-----> L'
This complex is exact when we have `Function.Exact f g`, see
`ModuleCat.shortComplexOfConj_exact`.
```

**Comment by dagurtomas** [comment]
Note that I have pushed some commits editing a docstring, in order to be able to use the bot to split off #39305. Just make sure to pull before you make local changes

**Comment by Thmoas-Guan** [comment]
Sorry that I am not familiar with this splitting bot, so now what is the relation with #39305? If I want to make change in the file split out what should I do? (Just in case, currently it looks fine)

**Comment by dagurtomas** [comment]
> Sorry that I am not familiar with this splitting bot, so now what is the relation with #39305? If I want to make change in the file split out what should I do? (Just in case, currently it looks fine)

The purpose of splitting it is that I think the file that I split off is ready to be merged. Then when it is merged, you can merge master and that diff disappears from this PR. You can't edit the bot's PR, but if you want to do some minor changes to it, you can just review the PR and suggest changes

File: Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean
Comment (dagurtomas) [inline Mathlib/Algebra/Homology/ShortComplex/ModuleCat.lean:1]: The changes in this file are now on master, you need to merge

**Comment by dagurtomas** [comment]
https://github.com/Thmoas-Guan/mathlib4_fork/pull/23 attempts to make the file more readable. What do you think?

**Comment by Thmoas-Guan** [comment]
Thanks for the cleanup!
The only thing I am not very sure is whether the very specific `extQuotientBotZeroEquiv` and the coming lemma worth separating. I think there might be some more general form but haven't come up with one yet. Anyway, the current version is fine for me :)

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 38]
```diff
@@ -0,0 +1,159 @@
...
+    (h : Subsingleton (Ext (of R (Shrink.{v, u} (R ⧸ (⊥ : Ideal R)))) M 0)) :
+    Subsingleton M := by
+  rw [← (extQuotientBotZeroEquiv (R := R) M).subsingleton_congr]
+  exact h
+
+/-- If `Ext (R ⧸ I) M n` vanishes for every ideal `I`, then `M` has injective dimension
+strictly less than `n`. -/
+lemma hasInjectiveDimensionLT_of_quotients [Small.{v} R] (M : ModuleCat.{v} R) (n : ℕ)
+    (h : ∀ I : Ideal R, Subsingleton (Ext (ModuleCat.of R (Shrink.{v} (R ⧸ I))) M n)) :
+    HasInjectiveDimensionLT M n := by
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean:144]: Can you add an `iff` version of this theorem (the converse is easy using `HasInjectiveDimensionLT.subsingleton`)? Similar for ` injective_of_subsingleton_ext_quotient_one`

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 39]
```diff
@@ -0,0 +1,159 @@
...
+variable {R : Type u} [CommRing R]
+
+open CategoryTheory Abelian
+
+namespace ModuleCat
+
+attribute [local instance] Ext.subsingleton_of_projective in
+/-- For a short exact complex whose middle object is projective, the vanishing of
+`Ext S.X₃ M 1` is equivalent to surjectivity of precomposition along `S.f` on `Ext⁰`. -/
+lemma ext_one_subsingleton_iff_of_projective [Small.{v} R] (M : ModuleCat.{v} R)
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: This holds in any abelian category which `HasExt`, please generalize it.

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 40]
```diff
@@ -0,0 +1,159 @@
+/-
+Copyright (c) 2025 Nailin Guan. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Nailin Guan
+-/
+module
+
+public import Mathlib.Algebra.Category.Grp.Zero
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: This is redundant

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 41]
```diff
@@ -0,0 +1,159 @@
...
+public import Mathlib.Algebra.Category.ModuleCat.EnoughInjectives
+public import Mathlib.Algebra.Category.ModuleCat.Ext.HasExt
+public import Mathlib.Algebra.Homology.ShortComplex.ModuleCat
+public import Mathlib.CategoryTheory.Abelian.Injective.Dimension
+public import Mathlib.CategoryTheory.Abelian.Injective.Resolution
+public import Mathlib.RingTheory.Ideal.Quotient.Defs
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: This is redundant (you should run `#min_imports` to find the correct set of imports)

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 42]
```diff
@@ -0,0 +1,159 @@
...
+/-- The zeroth Ext group from `R ⧸ ⊥` is canonically equivalent to the underlying module. -/
+private noncomputable def extQuotientBotZeroEquiv [Small.{v} R] (M : ModuleCat.{v} R) :
+    (Ext (ModuleCat.of R (Shrink.{v} (R ⧸ (⊥ : Ideal R)))) M 0) ≃ M :=
+  (Ext.homEquiv₀.trans ModuleCat.homEquiv).trans ((((Shrink.linearEquiv _ _).trans
+    (Submodule.quotEquivOfEqBot _ rfl)).congrLeft M R).trans
+      (LinearMap.ringLmapEquivSelf R R M)).toEquiv
+
+/-- If `Ext⁰(R ⧸ ⊥, M)` is a subsingleton, then `M` is a subsingleton. -/
+private lemma subsingleton_of_ext_quotient_bot_zero [Small.{v} R] (M : ModuleCat.{v} R)
+    (h : Subsingleton (Ext (of R (Shrink.{v, u} (R ⧸ (⊥ : Ideal R)))) M 0)) :
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]:
```suggestion
    (h : Subsingleton (Ext (of R (Shrink.{v} (R ⧸ (⊥ : Ideal R)))) M 0)) :
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean (hunk 41 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean]: This seems still generated by `min_imports`, I removed it anyway.

File: Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean [hunk 43]
```diff
@@ -0,0 +1,153 @@
...
+universe than `ModuleCat.{v} R`.
+
+## Main results
+
+* `ModuleCat.ext_quotient_one_subsingleton_iff`: `Ext (R ⧸ I) M 1` vanishes iff every
+  linear map `I →ₗ[R] M` extends to `R →ₗ[R] M`.
+* `ModuleCat.injective_of_subsingleton_ext_quotient_one`: if `Ext (R ⧸ I) M 1` vanishes
+  for all ideals `I`, then `M` is injective.
+* `ModuleCat.hasInjectiveDimensionLT_of_quotients`: if `Ext (R ⧸ I) M n` vanishes for all
+  ideals `I`, then `M` has injective dimension `< n`.
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/ModuleCat/Ext/Baer.lean:38]: Can you add the new `_iff` lemmas to this list

**Comment by joelriou** [comment]
Thanks!

bors merge
